US05922727
1-{[3,4-Di(hydroxymethyl)cyclopent-1-en-1-yl]methyl}-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and [3,4-di(t-butyldimethylsilyloxymethyl)cyclopent-1-en-1-yl]methyl bromide were reacted by the same method with example 28 to obtain the titled compound (74 mg).

reactant | 5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C16H18N2O3
reactant | [3,4-di(t-butyldimethylsilyloxymethyl)cyclopent-1-en-1-yl]methyl bromide | [Si](C)(C)(C(C)(C)C)OCC1C=C(CC1CO[Si](C)(C)C(C)(C)C)CBr | C20H41BrO2Si2
product | 1-{[3,4-Di(hydroxymethyl)cyclopent-1-en-1-yl]methyl}-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 74 mg, Yield(%): 26.3 | OCC1C=C(CC1CO)CN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)C(C)C)=O)=O | C24H30N2O5
